* Z:\mnt\design.r\spice\examples\1109A-5.asc
V1 IN 0 3
C1 OUT 0 22µ
D1 N001 OUT MBRS140
L1 IN N001 33µ
XU1 IN MP_01 N001 0 MP_02 MP_03 N002 OUT LT1109A
Rload OUT 0 25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT1109A.sub
.backanno
.end
